US06573374B1
Step 1: 2′,3′-Dideoxy-uridine-5′-triphosphate
The derivative was synthesized via the unstable diazonium derivative starting with the commercially available 2′,3′-dideoxy-cytidine-5′-triphosphate (Boehringer Mannheim) by deamination with NaNO2/acetic acid.

reactant | 2′,3′-dideoxy-cytidine-5′-triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1CC[C@@H](O1)N1C(=O)N=C(N)C=C1 | C9H16N3O12P3
reactant | NaNO2 acetic acid | N(=O)[O-].[Na+].C(C)(=O)O
product | 2′,3′-Dideoxy-uridine-5′-triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1CC[C@@H](O1)N1C(=O)NC(=O)C=C1 | C9H15N2O13P3
